US04879398
The preparation of 2,6-dimethyl DL-phenylalanines is disclosed by R. R. Herr, T. Enkoji & J. P. Dailey, J. Amer. Chem. Soc., 79, 4229(1957). The method involves the conversion of 2,6-dimethyl aniline into its diazonium salt, followed by treatment with potassium cyanide and cuprous cyanide to produce 2,6-dimethylbenzonitrile. The benzonitrile is reduced with lithium aluminum hydride to provide 2,6-dimethylbenzylamine, which is reacted with excess methyl iodide producing 2,6dimethylbenzyltrimethylammonium iodide. The trimethylammonium group is displaced with diethyl-2acetamidomalonate to form the amido diester, which is subsequently acidolysed to form the racemic mixture of 2,6-dimethylphenylalanine.

reactant | 2,6-dimethyl aniline | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | potassium cyanide | [C-]#N.[K+]
product | 2,6-dimethylbenzonitrile | CC1=C(C#N)C(=CC=C1)C | C9H9N
